US08044211B2
N-(5-{4-[6-amino-5-(2,4-difluorobenzoyl)-2-oxopyridin-1(2H)-yl]-3,5-difluorophenoxy}pentyl)-L-leucine
From Example 54. To a solution of tert-butyl N-(5-{4-[6-amino-5-(2,4-difluorobenzoyl)-2-oxopyridin-1(2H)-yl]-3,5-difluorophenoxy}pentyl)-L-leucinate (21 mg, 0.04 mmol) in DCM (2.5 ml) was added TFA (2.5 ml). The mixture was stirred at room temperature for 20 hours, before concentrating under reduced pressure. The residue was dissolved in minimal MeOH and azeotroped with 1:1 toluene/DCM three times. The title compound was afforded as a cream coloured solid as the mono-TFA salt (21 mg, 92% yield).

reactant | tert-butyl N-(5-{4-[6-amino-5-(2,4-difluorobenzoyl)-2-oxopyridin-1(2H)-yl]-3,5-difluorophenoxy}pentyl)-L-leucinate | 0.04 mmol, 21 mg | NC1=C(C=CC(N1C1=C(C=C(OCCCCCN[C@@H](CC(C)C)C(=O)OC(C)(C)C)C=C1F)F)=O)C(C1=C(C=C(C=C1)F)F)=O | C33H39F4N3O5
reactant | TFA | 2.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2.5 ml | C(Cl)Cl | CH2Cl2
product | N-(5-{4-[6-amino-5-(2,4-difluorobenzoyl)-2-oxopyridin-1(2H)-yl]-3,5-difluorophenoxy}pentyl)-L-leucine | NC1=C(C=CC(N1C1=C(C=C(OCCCCCN[C@@H](CC(C)C)C(=O)O)C=C1F)F)=O)C(C1=C(C=C(C=C1)F)F)=O | C29H31F4N3O5
